Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Phenylpropanolamine
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of
HTN, HLD, DMII, depression, fibromyalgia presenting with 
subacute
dyspnea on exertion and cough.

The patient reports that her symptoms began about two months 
ago.
She reports that she noticed dyspnea only on exertion, such as
climbing a flight of stairs. She denies any chest pain. No
palpitation. No fevers, chills. No orthopnea, PND, peripheral
edema. No cough at that time.

She presented to ___. Per notes from her
post-discharge follow up appointment on ___, she was treated
for pneumonia. She also tells me that she had an ultrasound of
her heart during that admission and a chest CT. She was told 
that
she had pulmonary hypertension and should follow up with her
doctor regarding this.

The patient reports that beginning about two weeks prior to this
admission she developed a cough. No sore throat or rhinorrhea. 
No
change in her shortness of breath, which. She reports that her
goddaughter had a flu-like illness. The cough was initially
productive of sputum. She felt very fatigued, like she had the
flu. No fevers or chills.

The patient initially presented to the ED on ___ for 
evaluation
of this cough. CXR showed enlarged cardiac silhouette but no
pneumonia. Patient was hypoxic to 91-99% on room air. Flu
negative. She was planned for admission, but left against 
medical
advice. She was discharged with a course of azithromycin. She
tells me she has been using her albuterol inhaler ___ times per
day with improvement in her respiratory symptoms. She has also
been using guaifenesin-codeine at night and this has helped
somewhat. Her cough has become more dry.

She presented today for PCP visit for cough and dyspnea on
exertion. She was noted to have ambulatory hypoxia to 91% on 
room
air, so was referred to the ED for further management. 

Of note, patient is a never smoker, no known history of
asthma/COPD, no pets, no known occupational exposures, no recent
travel, no known sleep apnea.

In the ED, initial vitals: 96.5 86 143/78 20 94% RA 
Labs notable for: WBC 15 (1.2E), plt 525, BUN/Cr ___, trop
<0.01, proBNP 210, d-dimer 447, flu negative
Imaging notable for: 
- CXR:  No acute cardiopulmonary process. 

On arrival to the floor, the patient reports that she continues
to have a cough. She denies any shortness of breath at rest.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
- DMII
- HTN
- HLD
- Anxiety/Depression
- Fibromyalgia
- Osteoarthritis
- Uterine fibroids
 
Social History:
___
Family History:
- Father: ___
- Mother: HTN, glaucoma
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.7 145/76 88 20 93 RA 
___: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, neck veins ___
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored. Intermittent dry cough
during exam
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE EXAM:
VS: ___ 0815 Temp: 98.4 PO BP: 146/80 L Lying HR: 84 RR: 18
O2 sat: 91% O2 delivery: Ra 
___ ___ FSBG: 287 
___ 1002 HR: 100 O2 sat: ___ O2 delivery: RA (while
ambulating) 
___ 1015 O2 sat: 95% O2 delivery: 1L NC 
___: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, neck veins ___
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored. Intermittent dry cough
during exam
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect 
 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:45PM BLOOD WBC-15.1* RBC-4.44 Hgb-11.8 Hct-38.7 
MCV-87 MCH-26.6 MCHC-30.5* RDW-14.1 RDWSD-44.4 Plt ___
___ 06:45PM BLOOD Neuts-65.4 ___ Monos-7.4 Eos-1.2 
Baso-0.9 NRBC-0.1* Im ___ AbsNeut-9.88* AbsLymp-3.11 
AbsMono-1.11* AbsEos-0.18 AbsBaso-0.13*
___ 06:45PM BLOOD Glucose-174* UreaN-20 Creat-1.2* Na-144 
K-4.0 Cl-98 HCO3-32 AnGap-14
___ 06:45PM BLOOD Glucose-174* UreaN-20 Creat-1.2* Na-144 
K-4.0 Cl-98 HCO3-32 AnGap-14
___ 06:45PM BLOOD proBNP-210
___ 06:45PM BLOOD cTropnT-<0.01

IMAGING
-------
CXR (___): No acute cardiopulmonary process.

DISCHARGE LABS
--------------
___ 08:00AM BLOOD WBC-11.3* RBC-4.39 Hgb-11.6 Hct-38.0 
MCV-87 MCH-26.4 MCHC-30.5* RDW-14.2 RDWSD-44.7 Plt ___
___ 08:00AM BLOOD Glucose-276* UreaN-21* Creat-1.0 Na-142 
K-3.5 Cl-96 HCO3-34* AnGap-12
___ 08:15PM BLOOD D-Dimer-447
___ 08:00AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.___ woman with history of HTN, HLD, DMII, depression, 
fibromyalgia presenting with subacute dyspnea on exertion and 
cough.

ACUTE/ACTIVE PROBLEMS:
# Ambulatory hypoxia:
# Cough: Patient presenting with several weeks of cough. CXR 
without focal consolidation. Flu negative. Suspect that this is 
a viral bronchitis that is resolving. Patient is s/p a course of 
azithromycin for ? atypical pneumonia.  She was started on 
antitussives and albuterol inhaler.  Ambulatory oxygen 
saturations were in the ___.  Patient refused to stay into the 
hospital to monitor for improvement or to secure outpatient 
oxygen services, and left against medical advice.  She agrees to 
follow up closely with her PCP.

# Dyspnea on exertion: Patient with two months of dyspnea on 
exertion, for which the patient was seen at an outside hospital 
and reportedly had TTE and CT chest performed, reportedly 
patient found to have pulmonary hypertension. The differential 
for this is broad, and includes pulmonary as well as cardiac 
causes. She is not volume overloaded on exam, and her proBNP is 
low.  EKG without acute ischemic changes and trop<0.01.  
Echocardiogram was ordered but patient was unwilling to stay for 
the study.  Records from ___ did not come in 
time for us to evaluate.  She should follow up closely with her 
PCP.   She would likely benefit from outpatient PFTs, 
pulmonology referral, and stress testing as an outpatient.

# Leukocytosis
# Thrombocytosis: Patient with elevated markers of inflammation. 
Also noted to have mild peripheral eosinophilia. Likely 
secondary to respiratory illness as above. No other localizing 
signs or symptoms of infection.  WBC count downtrended over 
course of stay.

# Acute kidney injury: ___ be pre-renal in setting of decreased 
oral intake due to illness as above.  Creatinine improved to 
normal soon after admission.  Chlorthalidone was initially held 
and then restarted on discharge.

CHRONIC/STABLE PROBLEMS:
# Diabetes type 2: Poorly controlled. Last A1c 9.0%.  Metformin 
and glipizide were held on admission, with sliding scale insulin 
employed, then restarted on discharge.

# Hypertension: Had hyperkalemia with ___ and ___ with ACEi.  
Amlodipine was continued.  Chlorthalidone was held and then 
restarted on discharge.

# Hyperlipidemia: continued statin

# Anxiety/Depression: continued sertraline

# Chronic pain due to
# Fibromyalgia
# Osteoarthritis: continued gabapentin, and meloxicam was held 
and then restarted on discharge.

TRANSITIONS OF CARE
-------------------
# Follow-up: patient is leaving against medical advice.  She 
agrees to follow up closely with her PCP, where her oxygenation 
status showed be checked.  She would likely benefit from 
outpatient PFTs, pulmonology referral, and stress testing as an 
outpatient.  Renal function should be rechecked as an 
outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 
3. Guaifenesin-CODEINE Phosphate 5 mL PO HS:PRN Cough 
4. GlipiZIDE 10 mg PO DAILY 
5. amLODIPine 10 mg PO DAILY 
6. Sertraline 100 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Atorvastatin 80 mg PO QPM 
9. Gabapentin 100 mg PO BID 
10. meloxicam 7.5 mg oral DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate [Tessalon Perles] 100 mg 1 capsule(s) by mouth 
three times a day Disp #*20 Capsule Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Chlorthalidone 25 mg PO DAILY  
5.  Gabapentin 100 mg PO BID  
6.  GlipiZIDE 10 mg PO DAILY  
7.  Guaifenesin-CODEINE Phosphate 5 mL PO HS:PRN Cough  
8.  meloxicam 7.5 mg oral DAILY  
9.  MetFORMIN (Glucophage) 1000 mg PO BID  
10.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN shortness of breath  
11.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypoxemia
Dyspnea on exertion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with cough.  Further 
testing showed that your oxygen level was low when exerting 
yourself, and that you would likely benefit from oxygen.  You 
are now being discharged.

You are leaving against medical advice.  We feel you would 
benefit from staying in the hospital, and  you are choosing to 
leave, and understand the risk of doing so.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___